US04250186
2-(3-Hydroxy-4-methyl-phenylimino)-imidazolidine hydrobromide by method B
A mixture of 6.61 gm of 2-(3-methoxy-4-methylphenylimino)-imidazolidine base (0.032 mol) and 100 ml of 48% hydrobromic acid was refluxed for 12 hours while stirring. Thereafter, the hydrobromic acid was evaporated in value, the residue was dissolved in methanol, the solution was filtered, and ether was added to the filtrate. The crystalline precipitate formed thereby was collected by suction filtration, washed with ether and dried. Yield: 4.85 gm (55.65% of theory) of 2-(3-hydroxy-4-methyl-phenylimino)-imidazolidine hydrobromide, m.p. 164°-165° C., Rf -value 0.4 in mobile phase 75 parts sec. butanol, 15 parts formic acid, 10 parts water. Carrier: silicagel with fluorescent pigment ZS; visualization: ultraviolet light and potassium iodoplatinate.

reactant | 2-(3-methoxy-4-methylphenylimino)-imidazolidine | 0.032 mol, 6.61 gm | COC=1C=C(C=CC1C)N=C1NCCN1 | C11H15N3O
reactant | hydrobromic acid | 100 ml | Br | BrH
product | 2-(3-Hydroxy-4-methyl-phenylimino)-imidazolidine hydrobromide | Br.OC=1C=C(C=CC1C)N=C1NCCN1 | InChI=1S/C10H13N3O.BrH/c1-7-2-3-8(6-9(7)14)13-10-11-4-5-12-10;/h2-3,6,14H,4-5H2,1H3,(H2,11,12,13);1H
